US05763599
2-methoxy-2-(2-nitrophenyl)ethanol
Paraformaldehyde (750 mg, 25 mmol) and DBU (1.85 ml, 12.4 mmol) were added to a solution of 2-nitrobenzylmethylether (4.18 g, 25 mmol) in DMSO (3.5 ml, synthesis quality, additionally dried for 2 d over molecular sieve 4 Å) and allowed to react at room temperature for 4 h. The pH value was adjusted from pH 9 to about pH 3.5 by means of a few drops of conc. AcOH. The mixture was diluted with CH2Cl2 (120 ml) and washed with H2O (80 ml). The aqueous phase was post-extracted with CH2 Cl2 (2×80 ml). The combined organic phases were dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product (5.56 g) was purified by column chromatography (140 g SiO2, 21×4.2 cm, solvent: toluene 300 ml, toluene/EtOAc 20:1 210 ml, 15:1 160 ml, 10:1 220 ml, 15:2 170 ml, 6:1 210 ml, 5:1 180 ml, 4:1 400 ml, 3:1 240 ml, 2:1 240 ml). First 2-nitrobenzylmethylether (2.442 g, 58%) was eluted then 2-methoxy-2-(2-nitrophenyl)ethanol (1.696 g, 34% and 82% respectively, in relation to the consumed starting material).

reactant | Paraformaldehyde | 25 mmol, 750 mg | C=O | CH2O
reactant | DBU | 12.4 mmol, 1.85 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-nitrobenzylmethylether | 25 mmol, 4.18 g | [N+](=O)([O-])C1=C(CCOCCC2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C16H16N2O5
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | AcOH | a few drops | CC(=O)O | C2H4O2
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxy-2-(2-nitrophenyl)ethanol | COC(CO)C1=C(C=CC=C1)[N+](=O)[O-] | C9H11NO4
